US06413964B1
Step D: Preparation of 4-Bromo-1-[methanesulfonyloxy]-3-methylbenzene
To a solution of 4-bromo-3-methylphenol (10.2 g, 54.5 mmol) in 100 mL of dichloromethane at 0° C. was added triethylamine (15.2 mL, 109 mmol), followed by methanesulfonyl chloride (6.33 mL, 81.8 mmol). The reaction was stirred overnight, allowing it to warm to room temperature. The solution was poured into EtOAc, washed with water, saturated NH4Cl solution, saturated aq. NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting product was isolated as a white solid which required no further purification.

reactant | 4-bromo-3-methylphenol | 54.5 mmol, 10.2 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | triethylamine | 109 mmol, 15.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 81.8 mmol, 6.33 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Bromo-1-[methanesulfonyloxy]-3-methylbenzene | BrC1=C(C=C(C=C1)OS(=O)(=O)C)C | C8H9BrO3S
